US07456200B2
1 N Sodium hydroxide (3.6 ml, 3.6 mmol) was added to a 3-methoxymethyl-benzoic acid methyl ester (436 mg, 2.4 mmol) in methanol (5 ml) and tetrahydrofuran (5 ml). The reaction was stirred at 70° C. for 30 min. and then the solvent was removed in vacuo. The residue was dissolved in a small amount of water and then acidified (pH about 2) by the addition of 1 N HCl (aq.). Following extraction of the aqueous layer with ethyl acetate, the organic layer was then washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 395 mg (98%) of 3-methoxymethyl-benzoic acid as a white solid. 1H NMR (DMSO), δ (ppm): 7.90 (s, 1H), 7.87 (d, 1H), 7.56 (d, 1H), 7.48 (t, 1H), 4.48 (s, 2H), 3.31 (s, 3H).

reactant | Sodium hydroxide | 3.6 mmol, 1 N, 3.6 ml | [OH-].[Na+]
reactant | 3-methoxymethyl-benzoic acid methyl ester | 2.4 mmol, 436 mg | COC(C1=CC(=CC=C1)COC)=O | C10H12O3
solvent | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-methoxymethyl-benzoic acid | 395 mg, 98% | COCC=1C=C(C(=O)O)C=CC1 | C9H10O3
